US07763562B2
Under an argon atmosphere, to a mixture of 6.90 g (25.5 mmol) of 7-bromo-3-phenyl-1H-indene, 5.30 g (25.5 mmol) of 3-phenyl-1H-inden-7-ol, 10.8 g (51 mmol) K3PO4, and 100 ml of toluene, a mixture of 300 mg (0.52 mmol) Pd(dba)2 and 348 mg (1.02 mmol) of N-{2′-[di(tert-butyl)phosphino][1,1′-biphenyl]-2-yl}-N,N-dimethylamine was added. This mixture was stirred for 8 hours at 100° C. Then, 300 ml of water was added, the organic layer was separated, and the aqueous layer was extracted with 3×75 ml of CH2Cl2. The combined extract was washed with 2×100 ml of water, dried over K2CO3, and evaporated to dryness. The analytically pure product, bis(3-phenyl-1H-inden-7-yl)ether, was obtained using flash chromatography on Silica Gel 60 (40-63 μm, d 50 mm, 1250 mm, eluant: CH2Cl2). Yield, 3.56 g (35%) of a white solid.

reactant | 7-bromo-3-phenyl-1H-indene | 25.5 mmol, 6.90 g | BrC=1C=CC=C2C(=CCC12)C1=CC=CC=C1 | C15H11Br
reactant | 3-phenyl-1H-inden-7-ol | 25.5 mmol, 5.30 g | C1(=CC=CC=C1)C1=CCC2=C(C=CC=C12)O | C15H12O
reactant | K3PO4 | 51 mmol, 10.8 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N-{2′-[di(tert-butyl)phosphino][1,1′-biphenyl]-2-yl}-N,N-dimethylamine | 1.02 mmol, 348 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C(C)(C)C | C22H32NP
catalyst | Pd(dba)2 | 0.52 mmol, 300 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | 300 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | bis(3-phenyl-1H-inden-7-yl)ether | C1(=CC=CC=C1)C1=CCC2=C(C=CC=C12)OC=1C=CC=C2C(=CCC12)C1=CC=CC=C1 | C30H22O
